US06350885B1
4-Hydroxyimino4-(6,7,8,9-tetrahydro-dibenzofuran-3-yl)-butyric acid
To a methanolic solution (50 mL) of 4-oxo-4-(6,7,8,9-tetrahydro-dibenzofuran-3-yl)-butyric acid (Keumi T., Saga H., Shimakawa S., et al., Fufui Daigaku, Kogakubu Seni Kogyu Kenkyu Shisetsu Hokoku, 1976;14:71-7 (mp 143-146° C.; mp 148.5-149.50° C. (lit.)) (0.6 g, 0.0022 mol) and sodium acetate trihydrate (0.9 g, 0.0066 mol) at room temperature with stirring was added an aqueous solution (10 mL) of hydroxylamine hydrochloride (0.31 g, 0.0044 mol). The resulting solution was heated to reflux for 4 hours. The solution was then cooled to room temperature and concentrated in vacuo. The residue was recrystallized form ethyl acetate/hexane (1:1) to yield the title compound (0.32 g, 51%) as a white solid; mp 164° C.

reactant | sodium acetate trihydrate | 0.0066 mol, 0.9 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.0044 mol, 10 mL, 0.31 g | Cl.NO
reactant | 4-oxo-4-(6,7,8,9-tetrahydro-dibenzofuran-3-yl)-butyric acid | 50 mL | O=C(CCC(=O)O)C=1C=CC2=C(OC3=C2CCCC3)C1 | C16H16O4
product | 4-Hydroxyimino4-(6,7,8,9-tetrahydro-dibenzofuran-3-yl)-butyric acid | 0.32 g, 51% | ON=C(CCC(=O)O)C=1C=CC2=C(OC3=C2CCCC3)C1 | C16H17NO4
